2153-06-17 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --CT Head:Bilateral mixed density subdural hematoma is little changed,
   with only slight mass effect on adjacent sulci and no shift of normally
   midline structures.
   --ECHO: EF 30-35% Moderate global left ventricular systolic
   dysfunction. Dilated right ventricle with mild global systolic
   dysfunction. Mild aortic regurgitation. Moderate mitral regurgitation.
   Severe tricupsid regurgitation, mostly around the multiple
   pacemaker/defibrillator leads. At least moderate pulmonary hypertension
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-17**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 70 (70 - 72) bpm
   BP: 119/59(72) {81/28(42) - 127/78(84)} mmHg
   RR: 18 (9 - 23) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Height: 70 Inch
                  Total In:
                                                                  1,440 mL
                                                                    480 mL
   PO:
                                                                  1,440 mL
                                                                    480 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,090 mL
                                                                    600 mL
   Urine:
                                                                  2,090 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -650 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: WA elderly man in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: Contusion of left posterior scalp with ecchymosis extending from
   site of injury down left posterior neck. PERRL/EOMI. Sclera anicteric.
   Conjunctiva were pink, no pallor or cyanosis of the oral mucosa. No
   xanthalesma.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RRR,
   normal S1-S2. +III/VI SEM @ LUSB. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: NABS, soft/NT/ND. No HSM or tenderness. Abd aorta not enlarged
   by palpation.
   EXTREMITIES: WWP, no c/c/e.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. +Large
   non-tender ecchymotic area over left posterior scapula.
   NEURO: A&Ox3, CNs II-XII intact, strength 5/5 throughout, sensation
   grossly intact to light touch throughout
   PULSES:
   Right: Radial 2+ DP 1+ PT 1+
   Left: Radial 2+ DP 1+ PT 1+
   Labs / Radiology
   140 K/uL
   9.9 g/dL
   91 mg/dL
   1.5 mg/dL
   31 mEq/L
   4.4 mEq/L
   41 mg/dL
   101 mEq/L
   141 mEq/L
   30.2 %
   9.0 K/uL
        [image002.jpg]
                             [**2153-6-15**]  08:00 PM
                             [**2153-6-16**]  07:23 AM
                             [**2153-6-17**]  06:46 AM
   WBC
   7.5
   8.4
   9.0
   Hct
   31.2
   31.8
   30.2
   Plt
   111
   121
   140
   Cr
   1.6
   1.5
   TropT
   0.03
   0.04
   Glucose
   156
   91
   Other labs: PT / PTT / INR:15.5/28.0/1.4, CK / CKMB /
   Troponin-T:100/3/0.04, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 SUBDURAL HEMORRHAGE (SDH)
 SUBARACHNOID HEMORRHAGE (SAH)
 .H/O SYNCOPE
   83-yo man with HTN, Afib on coumadin, non-ischemic CMP, ?h/o
   tachy-brady versus complete heart block, s/p dual chamber pacemaker in
   [**2143**] with upgrade to dual chamber BiV [**2149**], who presents with
   presyncope/syncope, falls, and SDH/SAH on NCHCT, found to have a likely
   fractured RV lead resulting in episodes of syncope, now s/p temporary
   pacing wire placement in right IJ by EP and awaiting lead revision.
   .
   #. RHYTHM: Pt with Afib, ?h/o tachy-brady versus complete heart block,
   s/p dual chamber pacemaker [**2143**] w/ upgrade to dual chamber BiV [**2149**],
   p/w symptomatic asystole / pauses likely [**1-29**] fractured RV lead. Has
   external pacer in place. Plan for lead revision on Mon .
   - monitor on telemetry
   - DO NOT TOUCH external pacemaker on chest
   - cont BB
   - cont Amio
   - RV lead revision planned for Monday
   - NPO p MN Sunday night
   - EP recs
   - no anticoagulation given SDH/SAH as below
   - cont Vanc 1g IV daily through Monday
   - bedrest with commode privileges
   .
   #. SDH/SAH: Post-traumatic in setting of syncope/fall while therapeutic
   on coumadin with INR 2.8, s/p Vitamin K 7mg PO and 4units
   FFP.Neurologically intact without concerning neuro checks, SDH/SAH
   stable per NSG. Repeat CT showed little change with only slight mass
   effect on adjacent sulci and no shift of normally midline structures
   - appreciate NSG involvement
   - cont Q4hr neuro checks while in CCU
   - f/u AM INR and maintain INR 1.5 or less
   - maintain active T&C
   .
   #. PUMP:EF30-35% Currently appears euvolvemic on exam.
   - cont home full-dose ASA, torsemide, spironolactone
   -  home BB
   - daily weights, monitor I/Os (goal even)
   .
   #. CORONARIES: Pt w/ no known CAD as cardiomyopathy is non-ischemic.
   Apparently had 20 seconds of chest discomfort prior to transfer to EP
   lab for temporary pacemaker placement that resolved spontaneously.
   - cont home full-dose ASA
   - cont home BB
   .
   #. Hypertension: Normotensive on home regimen
   - cont home torsemide and spironolactone
   - resume home BB
   .
   #. Chronic renal insufficiency: Creatinine 1.5 yesterday, reportedly
   1.7 is baseline.
   - trend daily creatinine
   - avoid nephrotoxins
   - renally-dose meds
   .
   #. FEN: Regular (cardiac, low-Na) diet, replete lytes PRN
   #. PROPHYLAXIS:
    - DVT ppx on hold [**1-29**] SDH/SAH
    - Pain management with Tylenol
    - Bowel regimen with Colace / Senna / Dulcolax / home PPI
   #. ACCESS: PIVs
   #. FULL CODE
   #. Communication - with pt and wife ([**Telephone/Fax (1) 8293**])
   #. DISPO: CCU for now

2153-06-18 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - NPO for pacer placement tomorrow, T&X 2U per EP
   - Vano level 10 --> started vanco 1g q12 (recheck AM level)
   - NSurg: Repeat head CT [**6-21**], f/u with [**Doctor Last Name **] in 1 month, restart ASA
   - I/O (goal even): 1700 (-680cc), 2200 (-930cc)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-18**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 70 (70 - 71) bpm
   BP: 115/55(70) {95/40(56) - 129/73(85)} mmHg
   RR: 12 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 70 Inch
                  Total In:
                                                                  1,140 mL
                  PO:
                                                                  1,140 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    780 mL
   Urine:
                                                                  2,200 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,060 mL
                                                                   -780 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   GENERAL: WA elderly man in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: Contusion of left posterior scalp with ecchymosis extending from
   site of injury down left posterior neck. PERRL/EOMI. Sclera anicteric.
   Conjunctiva were pink, no pallor or cyanosis of the oral mucosa. No
   xanthalesma.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RRR,
   normal S1-S2. +III/VI SEM @ LUSB. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: NABS, soft/NT/ND. No HSM or tenderness. Abd aorta not enlarged
   by palpation.
   EXTREMITIES: WWP, no c/c/e.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. +Large
   non-tender ecchymotic area over left posterior scapula.
   NEURO: A&Ox3, CNs II-XII intact, strength 5/5 throughout, sensation
   grossly intact to light touch throughout
   PULSES:
   Right: Radial 2+ DP 1+ PT 1+
   Left: Radial 2+ DP 1+ PT 1+
   Labs / Radiology
   140 K/uL
   9.9 g/dL
   104 mg/dL
   1.4 mg/dL
   29 mEq/L
   3.6 mEq/L
   39 mg/dL
   103 mEq/L
   144 mEq/L
   30.2 %
   9.0 K/uL
        [image002.jpg]
                             [**2153-6-15**]  08:00 PM
                             [**2153-6-16**]  07:23 AM
                             [**2153-6-17**]  06:46 AM
   WBC
   7.5
   8.4
   9.0
   Hct
   31.2
   31.8
   30.2
   Plt
   111
   121
   140
   Cr
   1.6
   1.5
   1.4
   TropT
   0.03
   0.04
   Glucose
   156
   91
   104
   Other labs: PT / PTT / INR:15.5/28.6/1.4, CK / CKMB /
   Troponin-T:100/3/0.04, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   83-yo man with HTN, Afib on coumadin, non-ischemic CMP, ?h/o
   tachy-brady versus complete heart block, s/p dual chamber pacemaker in
   [**2143**] with upgrade to dual chamber BiV [**2149**], who presents with
   presyncope/syncope, falls, and SDH/SAH on NCHCT, found to have a likely
   fractured RV lead resulting in episodes of syncope, now s/p temporary
   pacing wire placement in right IJ by EP and awaiting lead revision.
   .
   #. RHYTHM: Pt with Afib, ?h/o tachy-brady versus complete heart block,
   s/p dual chamber pacemaker [**2143**] w/ upgrade to dual chamber BiV [**2149**],
   p/w symptomatic asystole / pauses likely [**1-29**] fractured RV lead. Has
   external pacer in place. Plan for lead revision today
   - NPO for lead revision today
   - monitor on telemetry
   - DO NOT TOUCH external pacemaker on chest
   - cont BB
   - cont Amio
   - EP recs
   - no anticoagulation given SDH/SAH as below
   - cont Vanc 1g IV daily will check vanc trough today given CRI
   - bedrest with commode privileges
   .
   #. SDH/SAH: Post-traumatic in setting of syncope/fall while therapeutic
   on coumadin with INR 2.8, s/p Vitamin K 7mg PO and 4units
   FFP.Neurologically intact without concerning neuro checks, SDH/SAH
   stable per NSG. Repeat CT showed little change with only slight mass
   effect on adjacent sulci and no shift of normally midline structures
   - appreciate NSG involvement
   - repeat CT-head [**6-21**], f/u w Dr. [**Last Name (STitle) 6858**] in 1month
   - cont Q4hr neuro checks while in CCU
   - INR 1.5 or less
   - maintain active T&C
   .
   #. PUMP:EF30-35% Currently appears euvolvemic on exam.
   - plan for lasix x1 this AM
   - cont home full-dose ASA, torsemide, spironolactone
   -  home BB
   - daily weights, monitor I/Os (goal even)
   .
   #. CORONARIES: Pt w/ no known CAD as cardiomyopathy is non-ischemic.
   Apparently had 20 seconds of chest discomfort prior to transfer to EP
   lab for temporary pacemaker placement that resolved spontaneously.
   - cont home full-dose ASA
   - cont home BB
   .
   #. Hypertension: Normotensive on home regimen
   - cont home torsemide and spironolactone
   - resume home BB
   .
   #. Chronic renal insufficiency: Creatinine 1.4, reportedly 1.7 is
   baseline.
   - trend daily creatinine
   - avoid nephrotoxins
   - renally-dose meds
   .
   #. FEN: Regular (cardiac, low-Na) diet, replete lytes PRN
   #. PROPHYLAXIS:
    - DVT ppx on hold [**1-29**] SDH/SAH
    - Pain management with Tylenol
    - Bowel regimen with Colace / Senna / Dulcolax / home PPI
   #. ACCESS: PIVs
   #. FULL CODE
   #. Communication - with pt and wife ([**Telephone/Fax (1) 8293**])
   #. DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2153-6-16**] 09:13 PM
   20 Gauge - [**2153-6-16**] 09:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
                    11. Omeprazole 20 mg PO DAILY
   2. Acetaminophen 325-650 mg PO Q6H:PRN
                    3. Allopurinol 100 mg PO DAILY
   13. Potassium Chloride 40 mEq PO ONCE
   4. Amiodarone 200 mg PO DAILY
   14. Senna 1 TAB PO BID:PRN Constipation
   5. Aspirin 325 mg PO DAILY
   15. Simethicone 40-80 mg PO QID:PRN gas
   6. Bisacodyl 10 mg PO/PR DAILY:PRN
                    7. Colchicine 0.6 mg PO 1X/WEEK ([**Doctor First Name **])
   17. Spironolactone 25 mg PO DAILY
   hold for sbp <100  Order date: [**6-15**] @ 1805
   8. Docusate Sodium 100 mg PO BID
   18. Torsemide 60 mg PO DAILY
   hold for sbp <100  Order date: [**6-15**] @ 1805
   9. Metoprolol Tartrate 50 mg PO BID
   19. Vancomycin 1000 mg IV Q 12H
   ID Approval will be required for this order in 25 hours.
   Please give next dose now.  Order date: [**6-17**] @ 1205
   10. Multivitamins W/minerals 1 TAB PO DAILY

2153-06-19 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: None. Resting comfortably in bed, upbeat.
   24 Hour Events:
   [**6-18**]:
   - given additional lasix dose 40 IV x1 prior to procedure
   - pt had lead extracted and replaced and new PPM placed
   - f/u CXR had no e/o pneumothorax
   - I/O neg 2.5L near MN
   (ready to be called out but with team changes kept in CCU)
 OR SENT - At [**2153-6-18**] 02:46 PM
 ARTERIAL LINE - START [**2153-6-18**] 04:00 PM
 OR RECEIVED - At [**2153-6-18**] 05:15 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-6-19**] 12:06 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2153-6-18**] 08:00 AM
   Furosemide (Lasix) - [**2153-6-18**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-19**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 66 (60 - 72) bpm
   BP: 132/47(74) {113/44(63) - 151/54(83)} mmHg
   RR: 13 (5 - 21) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 77.9 kg (admission): 75.9 kg
   Height: 70 Inch
             Total In:
                                                                  1,500 mL
                                                                    560 mL
   PO:
                                                                    300 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,200 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                    410 mL
   Urine:
                                                                  3,500 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,500 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   GENERAL: WA elderly man in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: Contusion of left posterior scalp with ecchymosis extending from
   site of injury down left posterior neck, nontender. PERRL/EOMI. Sclera
   anicteric. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RRR,
   normal S1-S2. +III/VI SEM @ LUSB. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: NABS, soft/NT/ND. No HSM or tenderness. Abd aorta not enlarged
   by palpation.
   EXTREMITIES: WWP, no c/c/e.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. +Large
   non-tender ecchymotic area over left posterior scapula.
   NEURO: A&Ox3, CNs II-XII intact, strength 5/5 throughout, sensation
   grossly intact to light touch throughout
   PULSES:
   Right: Radial 2+ DP 1+ PT 1+
   Left: Radial 2+ DP 1+ PT 1+
   Labs / Radiology
   155 K/uL
   10.0 g/dL
   98 mg/dL
   1.3 mg/dL
   31 mEq/L
   3.8 mEq/L
   38 mg/dL
   100 mEq/L
   139 mEq/L
   29.4 %
   8.6 K/uL
        [image002.jpg]
                             [**2153-6-15**]  08:00 PM
                             [**2153-6-16**]  07:23 AM
                             [**2153-6-17**]  06:46 AM
                             [**2153-6-18**]  02:45 AM
                             [**2153-6-18**]  06:05 PM
                             [**2153-6-19**]  04:09 AM
   WBC
   7.5
   8.4
   9.0
   10.2
   8.6
   Hct
   31.2
   31.8
   30.2
   28.8
   29.4
   Plt
   111
   121
   140
   139
   155
   Cr
   1.6
   1.5
   1.4
   1.3
   1.3
   1.3
   TropT
   0.03
   0.04
   Glucose
   156
   91
   104
   85
   98
   Other labs: PT / PTT / INR:14.7/29.9/1.3, CK / CKMB /
   Troponin-T:100/3/0.04, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   83-yo man with HTN, Afib on coumadin, non-ischemic CMP, ?h/o
   tachy-brady versus complete heart block, s/p dual chamber pacemaker in
   [**2143**] with upgrade to dual chamber BiV [**2149**], who presents with
   presyncope/syncope, falls, and SDH/SAH on NCHCT, found to have a likely
   fractured RV lead resulting in episodes of syncope, now s/p temporary
   pacing wire placement in right IJ by EP and awaiting lead revision.
   .
   #. RHYTHM: Pt with Afib, ?h/o tachy-brady versus complete heart block,
   s/p dual chamber pacemaker [**2143**] w/ upgrade to dual chamber BiV [**2149**],
   p/w symptomatic asystole / pauses likely [**1-29**] fractured RV lead. Had
   external pacer, underwent lead revision yesterday w/ no complications
   - f/u repeat PA/Lat today for pacer lead placing
   - monitor on telemetry
   - cont BB
   - cont Amio
   - no anticoagulation given SDH/SAH as below
   - EP recs (esp re: Vanc dosing)
   - cont Vanc 1g IV daily will check vanc trough today given CRI
   - bedrest with commode privileges
   .
   #. SDH/SAH: Post-traumatic in setting of syncope/fall while therapeutic
   on coumadin with INR 2.8, s/p Vitamin K 7mg PO and 4units
   FFP.Neurologically intact without concerning neuro checks, SDH/SAH
   stable per NSG. Repeat CT showed little change with only slight mass
   effect on adjacent sulci and no shift of normally midline structures
   - repeat CT-head [**6-21**], f/u w Dr. [**Last Name (STitle) 6858**] in 1month
   - cont Q4hr neuro checks while in CCU
   - INR 1.5 or less (today: 1.3)
   - maintain active T&C
   .
   #. PUMP:EF30-35% Currently appears euvolvemic on exam.
   - cont home full-dose ASA, torsemide, spironolactone
   -  home BB
   - daily weights, monitor I/Os (goal even)
   .
   #. CORONARIES: Pt w/ no known CAD as cardiomyopathy is non-ischemic.
   Apparently had 20 seconds of chest discomfort prior to transfer to EP
   lab for temporary pacemaker placement that resolved spontaneously.
   - cont home full-dose ASA
   - cont home BB
   .
   #. Hypertension: Normotensive on home regimen
   - cont home torsemide and spironolactone
   - resume home BB
   .
   #. Chronic renal insufficiency: Creatinine 1.3, reportedly 1.7 is
   baseline.
   - trend daily creatinine
   - avoid nephrotoxins when possible
   - renally-dose meds
   .
   #. FEN: Regular (cardiac, low-Na) diet, replete lytes PRN
   #. PROPHYLAXIS:
    - DVT ppx on hold [**1-29**] SDH/SAH
    - Pain management with Tylenol
    - Bowel regimen with Colace / Senna / Dulcolax / home PPI
   #. ACCESS: PIVs
   #. FULL CODE
   #. Communication - with pt and wife ([**Telephone/Fax (1) 8293**])
   #. DISPO: CCU for now
 CARDIOMYOPATHY, OTHER
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SUBDURAL HEMORRHAGE (SDH)
 SUBARACHNOID HEMORRHAGE (SAH)
 .H/O SYNCOPE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2153-6-16**] 09:13 PM
   20 Gauge - [**2153-6-16**] 09:14 PM
   Arterial Line - [**2153-6-18**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-06-20 06:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Resting comfortably in bed. C/o constipation and
   consequent bloating/firmness of abdomen
   24 Hour Events:
   [**6-19**]:
   - Kept patient overnight but called out to [**Hospital Ward Name 289**] 3 due to episode of
   desaturation this afternoon
   - given additional lasix dose 40 IV X1 after desating in afternoon to
   88% on NC, likely [**1-29**] fluid overload --> evaluate in the AM if home O2
   needed
   - PM K and Mg checked:
   - additional 40mg IV lasix given at 8:30 PM prior to transfer to floor
   for goal net negative today
   - PT saw pt, recommended home w/PT
   - Vanco d/c'd, started on Levo for 7 day course
   - Neurosurg could not reach Dr. [**Last Name (STitle) **] (attg of record) today. We want
   date to restart coumadin and whether repeat CT needed [**6-21**].
   - Will need to f/u with outpt cardiologist in [**12-29**] wks
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-6-19**] 12:06 AM
   Levofloxacin - [**2153-6-19**] 02:30 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2153-6-19**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-20**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 60 (60 - 70) bpm
   BP: 132/59(77) {98/30(46) - 134/72(81)} mmHg
   RR: 16 (13 - 19) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
   Wgt (current): 78 kg (admission): 75.9 kg
   Height: 70 Inch
                  Total In:
                                                                  1,460 mL
                  PO:
                                                                  1,260 mL
                  TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    660 mL
   Urine:
                                                                  1,950 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -490 mL
                                                                   -660 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   GENERAL: WA elderly man in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: Contusion of left posterior scalp with ecchymosis extending from
   site of injury down left posterior neck, nontender. PERRL/EOMI. Sclera
   anicteric. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RRR,
   normal S1-S2. +III/VI SEM @ LUSB. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: NABS, soft/NT/ND. No HSM or tenderness. Abd aorta not enlarged
   by palpation.
   EXTREMITIES: WWP, no c/c/e.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. +Large
   non-tender ecchymotic area over left posterior scapula.
   NEURO: A&Ox3, CNs II-XII intact, strength 5/5 throughout, sensation
   grossly intact to light touch throughout
   PULSES:
   Right: Radial 2+ DP 1+ PT 1+
   Left: Radial 2+ DP 1+ PT 1+
   Labs / Radiology
   187 K/uL
   10.9 g/dL
   109 mg/dL
   1.6 mg/dL
   31 mEq/L
   4.0 mEq/L
   41 mg/dL
   97 mEq/L
   139 mEq/L
   31.5 %
   8.2 K/uL
        [image002.jpg]
                             [**2153-6-15**]  08:00 PM
                             [**2153-6-16**]  07:23 AM
                             [**2153-6-17**]  06:46 AM
                             [**2153-6-18**]  02:45 AM
                             [**2153-6-18**]  06:05 PM
                             [**2153-6-19**]  04:09 AM
                             [**2153-6-20**]  04:42 AM
   WBC
   7.5
   8.4
   9.0
   10.2
   8.6
   8.2
   Hct
   31.2
   31.8
   30.2
   28.8
   29.4
   31.5
   Plt
   111
   121
   140
   139
   155
   187
   Cr
   1.6
   1.5
   1.4
   1.3
   1.3
   1.3
   1.6
   TropT
   0.03
   0.04
   Glucose
   156
   91
   104
   85
   98
   109
   Other labs: PT / PTT / INR:15.2/28.7/1.3, CK / CKMB /
   Troponin-T:100/3/0.04, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   83-yo man with HTN, Afib on coumadin, non-ischemic CMP, ?h/o
   tachy-brady versus complete heart block, s/p dual chamber pacemaker in
   [**2143**] with upgrade to dual chamber BiV [**2149**], who presents with
   presyncope/syncope, falls, and SDH/SAH on NCHCT, found to have a likely
   fractured RV lead resulting in episodes of syncope, now s/p new PPM
   placement in OR [**2153-6-18**].
   #OXYGEN REQUIREMENT Pt on 2L NC, satting around 93%. Desatted to 88%
   yesterday when wean attempted. Diuresed with Lasix 40 mg IV X2
   - Reattempt wean today
   - Increase home dose from 60 to 80 mg daily of torsemide for 2 days
   post-discharge
   - Consider home O2 if further difficulties
   .
   #. RHYTHM: Pt with Afib, ?h/o tachy-brady versus complete heart block,
   s/p dual chamber pacemaker [**2143**] w/ upgrade to dual chamber BiV [**2149**],
   p/w symptomatic asystole / pauses likely [**1-29**] fractured RV lead. Had
   external pacer, underwent lead revision yesterday w/ no complications
   - monitor on telemetry
   - cont BB
   - cont Amio
   - no anticoagulation given SDH/SAH as below. Coumadin to be restarted
   either 1 week from discharge vs. after outpt head CT
   - EP recs: continue abx for 1 week post-procedure, be seen in pt
   cardiologist device clinic 2-3 days after discharge
   .
   #. SDH/SAH: Post-traumatic in setting of syncope/fall while therapeutic
   on coumadin with INR 2.8, s/p Vitamin K 7mg PO and 4units
   FFP.Neurologically intact without concerning neuro checks, SDH/SAH
   stable per NSG. Repeat CT showed little change with only slight mass
   effect on adjacent sulci and no shift of normally midline structures
   - repeat CT-head outpatient, f/u w Dr. [**Last Name (STitle) 6858**] in 1month (pt asked to
   call directly for appt), no anticoag for 30 days
   - cont Q4hr neuro checks while in CCU
   - INR 1.5 or less
   - maintain active T&C
   .
   #. PUMP:EF30-35% Appeared fluid overloaded on CXR [**2153-6-19**]. -0.5L in
   last 24 hours after 40mg IV lasix X2
   - cont home full-dose ASA, torsemide increased as above, spironolactone
   -  home BB
   - daily weights, monitor I/Os (goal even)
   .
   #. CORONARIES: Pt w/ no known CAD as cardiomyopathy is non-ischemic.
   Apparently had 20 seconds of chest discomfort prior to transfer to EP
   lab for temporary pacemaker placement that resolved spontaneously.
   - cont home full-dose ASA
   - cont home BB
   .
   #. Hypertension: Normotensive on home regimen
   - cont home torsemide and spironolactone
   - resume home BB
   .
   #. Chronic renal insufficiency: Creatinine 1.6, reportedly 1.7 is
   baseline.
   - trend daily creatinine
   - avoid nephrotoxins when possible
   - renally-dose meds
   .
   #. FEN: Regular (cardiac, low-Na) diet, replete lytes PRN
   #. PROPHYLAXIS:
    - DVT ppx on hold [**1-29**] SDH/SAH
    - Pain management with Tylenol
    - Bowel regimen with Colace / Senna / Dulcolax / home PPI
   #. ACCESS: PIVs
   #. FULL CODE
   #. Communication - with pt and wife ([**Telephone/Fax (1) 8293**])
   #. DISPO: called out to [**Hospital Ward Name 289**] 3; home w/ PT/O2 services vs. transfer out
   if O2 weaned [**2153-6-20**]
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 IMPAIRED SKIN INTEGRITY
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 GAIT, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 CARDIOMYOPATHY, OTHER
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SUBDURAL HEMORRHAGE (SDH)
 SUBARACHNOID HEMORRHAGE (SAH)
 .H/O SYNCOPE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2153-6-16**] 09:13 PM
   20 Gauge - [**2153-6-16**] 09:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: